US07732626B2
4-(4-bromo-3,5-dimethylphenoxy)tetrahydro-2H-thiopyran
To a solution of 4-bromo-3,5-dimethylphenol (0.201 g, 1.00 mmol), tetrahydro-2H-thiopyran-4-ol (0.130 g, 1.10 mmol) and triphenylphosphine (0.341 g, 1.30 mmol) in tetrahydrofuran (5 mL) was added diethyl azodicarboxylate (40% solution in toluene, 0.591 mL, 1.30 mmol), and the mixture was stirred at room temperature for 1.5 hr. Tetrahydro-2H-thiopyran-4-ol (0.0591 g, 0.500 mmol), triphenylphosphine (0.157 g, 0.600 mmol) and diethyl azodicarboxylate (40% solution in toluene, 0.272 mL, 0.600 mmol) were added, and the mixture was further stirred for 1.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=0:100-20:80) to give the title compound (0.261 g, yield 86%) as colorless crystals.

reactant | 4-bromo-3,5-dimethylphenol | 1.00 mmol, 0.201 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | tetrahydro-2H-thiopyran-4-ol | 1.10 mmol, 0.130 g | S1CCC(CC1)O | C5H10OS
reactant | triphenylphosphine | 1.30 mmol, 0.341 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.30 mmol, 0.591 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Tetrahydro-2H-thiopyran-4-ol | 0.500 mmol, 0.0591 g | S1CCC(CC1)O | C5H10OS
reactant | triphenylphosphine | 0.600 mmol, 0.157 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.600 mmol, 0.272 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(4-bromo-3,5-dimethylphenoxy)tetrahydro-2H-thiopyran | 0.261 g, yield 86% | BrC1=C(C=C(OC2CCSCC2)C=C1C)C | C13H17BrOS
